US09227969B2
Step-6.2: Synthesis of tert-butyl (3S,4S)-4-azido-3-fluoropiperidine-1-carboxylate, 4.4
Sodium azide (0.48 g, 0.0073 mol) was added to a solution of tert-butyl (3S,4R)-3-fluoro-4-(tosyloxy)piperidine-1-carboxylate, 4.3-1, Peak-1 (0.7 g, 0.00187 mol) dissolved in DMF (15 mL). The reaction mixture was heated at 100° C. for 4 h. The mixture was cooled and diluted with water and methylene chloride. After separation, the organic layer was dried over Na2SO4, filtered and concentrated in vacuum to provide the desired product, 4.4 (0.4 g). The obtained product was taken for the next reaction without any purification.

reactant | Sodium azide | 0.0073 mol, 0.48 g | [N-]=[N+]=[N-].[Na+]
reactant | tert-butyl (3S,4R)-3-fluoro-4-(tosyloxy)piperidine-1-carboxylate | F[C@H]1CN(CC[C@H]1OS(=O)(=O)C1=CC=C(C)C=C1)C(=O)OC(C)(C)C | C17H24FNO5S
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | tert-butyl (3S,4S)-4-azido-3-fluoropiperidine-1-carboxylate | N(=[N+]=[N-])[C@@H]1[C@H](CN(CC1)C(=O)OC(C)(C)C)F | C10H17FN4O2
